US08877934B2
Step I: (E)-4,4,5,5-tetrafluoropent-2-enoic acid
Ethyl (E)-4,4,5,5-tetrafluoropent-2-enoate (15.9 g, 0.08 mol) was dissolved in ethanol (30 ml), 4M NaOH was added (15 ml) and the mixture was stirred at room temperature overnight. The mixture was diluted with water, washed with ethylacetate, acidified with 1M HCl and extracted with ethyl acetate. The organic extract was dried over magnesium sulfate, the solvent was removed under reduced pressure. 12.8 g of a colourless oil was obtained (0.074 mmol, 93%). MS (ESI, negative detection) m/z=170.9 [M−1]−.

reactant | Ethyl (E)-4,4,5,5-tetrafluoropent-2-enoate | 0.08 mol, 15.9 g | FC(/C=C/C(=O)OCC)(C(F)F)F | C7H8F4O2
reactant | NaOH | 4M | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | (E)-4,4,5,5-tetrafluoropent-2-enoic acid | 12.8 g | FC(/C=C/C(=O)O)(C(F)F)F | C5H4F4O2
